US06288122B1
1.2a Synthesis of (2-fluorophenyl)-(4-fluorophenyl)phenylmethanol
Phenylmagnesium bromide (1.83 mL, 5.5 mmol) was added dropwise to a tirring solution of 2,4′-difluorobenzophenone (1.09 g, 5.0 mmol) in t-butylmethyl ether (12 mL) at room temperature (“rt,”˜25° C.). After the addition was complete the reaction was heated at reflux for 3 h. The solution was cooled to rt and was poured in to ice cold 1.0 M HCl (aq) (20 mL). The organics were extracted with EtOAc (3×10 mL) and dried (Na2SO4). Concentration under reduced pressure gave the desired product (2-fluorophenyl)-(4-fluorophenyl)phenylmethanol as a pale brown oil which was used in the next reaction without any further purification.

reactant | Phenylmagnesium bromide | 5.5 mmol, 1.83 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 2,4′-difluorobenzophenone | 5.0 mmol, 1.09 g | FC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1 | C13H8F2O
solvent | t-butylmethyl ether | 12 mL | C(C)(C)(C)OC | C5H12O
product | (2-fluorophenyl)-(4-fluorophenyl)phenylmethanol | FC1=C(C=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H14F2O
